* sg13g2-opamp -- DC input-referred offset, open-loop null sweep (issue #11)
* design/opamp_core.sch, deterministic/corner-only (no Monte Carlo).
* Generated from
* sim/input-offset/testbench/tb_offset_null.spice.tmpl by
* sim/input-offset/run_offset_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep.
*
* Point: corner=mos_sf temp_c=-40 vdd_v=1.20 pass=coarse
* Sweep: Vid from -0.1 V to 0.1 V, step 500e-6 V
* PDK: ihp-sg13g2 /Users/rwalters/share/pdk (see sim/pdk.json for the pinned release)
* OSDI models: /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
* DUT netlist snapshot: /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-11/sim/input-offset/netlist-snapshots/20260918-203858-90844d2/opamp_core.spice (frozen copy of
*   design/netlist/opamp_core.spice alongside this generated testbench, so
*   the exact DUT netlist this point ran against is reviewable later)
*
* ------------------------------------------------------------------ method
* design/netlist/opamp_core.spice is a FLAT xschem netlist (its
* "**.subckt"/"**.ends" lines are full-line SPICE comments, not an active
* subcircuit wrapper), so .include'ing it makes its own node names (vdd,
* vss, inn, inp, out, ibias, plus the internal d1/d2/tail nodes) live
* directly at this testbench's top level -- same convention as
* sim/open-loop-ac/testbench/tb_openloop_ac.spice.tmpl. No "X..."
* instantiation is needed or used.
*
* WHAT IS MEASURED. Input-referred DC offset is defined here, operationally,
* as the differential input voltage
*
*     Vid = V(inp) - V(inn)
*
* that forces the output to the same mid-rail target the rest of this
* repo's benches bias to, Vout = Vcm = VDD/2. Both inputs are driven from a
* single common-mode source so that the input common-mode level stays
* EXACTLY at Vcm for every swept Vid:
*
*     V(inp) = Vcm + Vid/2      V(inn) = Vcm - Vid/2
*
* This is the "sweep a differential DC offset to null the output" method.
* It needs no gain correction of any kind: the reported number is a
* directly-swept input voltage, not an output error divided by a separately
* measured gain. (The second, independent closed-loop cross-check --
* tb_offset_cl.spice.tmpl -- IS a referred-back measurement, and exists to
* corroborate this one; see README.md "Two methods".)
*
* NO FEEDBACK IS USED HERE. Unlike sim/open-loop-ac/, this bench does not
* need the Lbreak DC-servo trick: the DC operating point of a standalone
* open-loop op-amp is ill-posed only in the sense that its output rails for
* any input away from the null -- which is precisely what makes the null
* findable. The output is a monotonic, saturating S-curve in Vid; the single
* crossing of Vout = Vcm IS the offset. run_offset_sweep.sh checks that the
* crossing is unique and that the small-signal slope there is a real gain
* (not a railed, degenerate point) -- see README.md "Per-point sanity
* checks".
*
* SIGN CONVENTION. inp is this design's NON-inverting input (design/
* opamp_core.sch's own "polarity" header, design/opamp_sizing.md), so Vout
* rises with Vid. A POSITIVE reported Vos therefore means "inp must be held
* above inn by Vos to bring the output to mid-rail", i.e. the amplifier's
* own systematic imbalance pushes the output LOW and the input must
* compensate upward.
*
* DETERMINISTIC ONLY. Every device instance in design/netlist/opamp_core.spice
* is nominal and every matched pair is instantiated identically, so what this
* bench measures is the SYSTEMATIC (topology + corner + bias) offset only.
* Random device mismatch contributes nothing here by construction -- no
* mismatch deck is loaded and no random draw is made. See README.md "What
* this bench does not claim".
*
* ibias: a single external ideal 10 uA current source, per
* design/opamp_sizing.md "Bias scope" -- identical to sim/open-loop-ac/'s
* treatment, so the two benches bias the same DUT the same way.
*
* Cload is present (CL = 2e-12 F [DR-1]) purely so this bench's DUT
* environment matches sim/open-loop-ac/'s; it has no effect on a DC
* analysis.
*
* RECORDED VECTORS (v(out)). run_offset_sweep.sh renders this
* template twice per grid point: a wide COARSE locate pass that records
* v(out) alone (the S-curve, enough to prove the Vout = Vcm crossing is
* unique), and a narrow FINE pass around that crossing that additionally
* records every internal node and the supply current, so the DUT's
* operating point AT the null is committed evidence rather than something
* re-derived later. Keeping the coarse pass single-vector is what keeps
* this experiment's corners/ directory to a couple of megabytes instead of
* seventeen.

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib" cap_typ
.include "/Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-11/sim/input-offset/netlist-snapshots/20260918-203858-90844d2/opamp_core.spice"

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib" mos_sf

.options temp=-40 tnom=27

Vdd vdd 0 dc 1.20
Vss vss 0 dc 0
Iibias vdd ibias dc 10u
Vcm cm 0 dc 0.6
Vid id 0 dc 0
Binp inp 0 v = v(cm) + v(id)/2
Binn inn 0 v = v(cm) - v(id)/2
Cload out vss 2e-12

.control
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi

dc Vid -0.1 0.1 500e-6
wrdata /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-11/sim/input-offset/corners/20260918-203858-90844d2/mos_sf_-40C_1.20V_null_coarse.csv v(out)
.endc
.end
